US06730674B2
Potassium t-butoxide (1.1 g) was added to a solution of 2,4-dichlorothiophenol (1.8 g) in N,N-dimethylformamide (DM F) (5 mL). The mixture was stirred at room temperature for 10 minutes and then 6-chloro 2H-pyridazin-3-one (1.31 g) was added. The reaction mixture was stirred at 100° C. for five hours. The mixture was then cooled to room temperature, poured into water (20 mL) and 20% potassium hydroxide (5 mL) was added. The resulting dark solution was extracted with ethyl acetate (2×10 mL). The aqueous layer was collected and the pH was adjusted to 3 with concentrated hydrochloric acid. The solution was then extracted with ethyl acetate (3×10 mL). The ethyl acetate layer was collected, dried over anhydrous sodium sulfate, filtered and evaporated to obtain a crude product, which was purified by silica gel chromatography (1:1 ethyl acetate/hexane as eluent) to afford 6-(2,4-dichloro-phenylsulfanyl)-2H-pyridazin-3-one (418 mg, 15%); NMR 6.88 (d, 1H), 7.10 (d, 1H), 7.24 (dd, 1H), 7.48 (d, 11H), 7.52 (d, 1H).

reactant | Potassium t-butoxide | 1.1 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichlorothiophenol | 1.8 g | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 6-chloro 2H-pyridazin-3-one | 1.31 g | ClC=1C=CC(NN1)=O | C4H3ClN2O
reactant | potassium hydroxide | 5 mL | [OH-].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 6-(2,4-dichloro-phenylsulfanyl)-2H-pyridazin-3-one | 418 mg, 15% | ClC1=C(C=CC(=C1)Cl)SC=1C=CC(NN1)=O | C10H6Cl2N2OS
